US03948914
15.6 g of 2-methylmercapto-4-isopropylamino-5-nitro-6-(3-pentyl-amino)-pyrimidine (0.05 mol) are dissolved in 250 ml of alcohol. Then 20 ml of triethylamine and 3 g of dimethylamine are added. The reaction mixture is kept for 16 hours under high pressure (12 bar) at 100°C, until no more starting material can be detected in a thin-layer chromatogram (silica gel. hexane/acetone 5:1). The mixture is evaporated, the residue is treated with water and extracted twice with ether. The ethereal extracts are dried over MgSO4, filtered and evaporated, to yield 13.5 g of 2-dimethylamino-4-isopropyl-amino-5-nitro-6-(3-pentylamino)-pyrimidine; b.p. 160°C/0.001 Torr.

reactant | 2-methylmercapto-4-isopropylamino-5-nitro-6-(3-pentyl-amino)-pyrimidine | 0.05 mol, 15.6 g | CSC1=NC(=C(C(=N1)NC(C)C)[N+](=O)[O-])NC(CC)CC | C13H23N5O2S
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 3 g | CNC | C2H7N
reactant | hexane acetone | CCCCCC.CC(=O)C
product | 2-dimethylamino-4-isopropyl-amino-5-nitro-6-(3-pentylamino)-pyrimidine | 13.5 g | CN(C1N(C(=C(C(=N1)C(C)C)[N+](=O)[O-])NC(CC)CC)N)C | C14H28N6O2
